US07652125B2
Next, 50.2 g of the obtained 9,9-bis[4-(4-nitro-3-benzyloxyphenoxy)-phenyl]-2,7-di(1-adamantyl)-fluorene (46.8 mmol), 1.49 g of 10% palladium-activated carbon (1.40 mmol), 273 mL of N,N-dimethylformamide and a stirrer were charged in a 300 mL recovery flask and agitated at 25° C. for 24 hours under a hydrogen atmosphere. A reaction solution was filtered and then added to in 1 L of ion-exchange water. Solid precipitate was collected by filtration, then agitated in 1 L of ion-exchange water for another one hour and dried under reduced pressure, thus obtaining 34.6 g of 9,9-bis[4-(3-hydroxy-4-amino-phenoxy)-phenyl]-2,7-di(1-adamantyl)-fluorene (41.5 mmol; the yield was 88.7%).

reactant | 9,9-bis[4-(4-nitro-3-benzyloxyphenoxy)-phenyl]-2,7-di(1-adamantyl)-fluorene | 46.8 mmol, 50.2 g | [N+](=O)([O-])C1=C(C=C(OC2=CC=C(C=C2)C2(C3=CC(=CC=C3C=3C=CC(=CC23)C23CC4CC(CC(C2)C4)C3)C34CC2CC(CC(C3)C2)C4)C4=CC=C(C=C4)OC4=CC(=C(C=C4)[N+](=O)[O-])OCC4=CC=CC=C4)C=C1)OCC1=CC=CC=C1 | C71H64N2O8
catalyst | palladium-activated carbon | 1.40 mmol, 1.49 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 273 mL | CN(C=O)C | C3H7NO
product | 9,9-bis[4-(3-hydroxy-4-amino-phenoxy)-phenyl]-2,7-di(1-adamantyl)-fluorene | 34.6 g, yield was 88.7% | OC=1C=C(OC2=CC=C(C=C2)C2(C3=CC(=CC=C3C=3C=CC(=CC23)C23CC4CC(CC(C2)C4)C3)C34CC2CC(CC(C3)C2)C4)C4=CC=C(C=C4)OC4=CC(=C(C=C4)N)O)C=CC1N | C57H56N2O4
